US05726165
4-(2-t-Butoxycarbonylaminoethyl)phenoxymethyl-(3-benzyloxypropyl)phosphinic acid, n-butyl ester
The title compound was prepared from 3-benzyloxypropyl-(4-chlorobenzenesulfonyloxymethyl)phosphinic acid, n-butyl ester and 2-(4-hydroxyphenyl)ethylcarbamic acid, t-butyl ester according to the procedure described in Procedure 24. The crude product was purified by chromatography, eluting with dichloromethane containing 3% methanol, to give an oil.

reactant | 3-benzyloxypropyl-(4-chlorobenzenesulfonyloxymethyl)phosphinic acid, n-butyl ester | C(C1=CC=CC=C1)OCCCP(OCCCC)(=O)COS(=O)(=O)C1=CC=C(C=C1)Cl | C21H28ClO6PS
reactant | 2-(4-hydroxyphenyl)ethylcarbamic acid, t-butyl ester | OC1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C13H19NO3
product | 4-(2-t-Butoxycarbonylaminoethyl)phenoxymethyl-(3-benzyloxypropyl)phosphinic acid, n-butyl ester | C(C)(C)(C)OC(=O)NCCC1=CC=C(OCP(OCCCC)(=O)CCCOCC2=CC=CC=C2)C=C1 | C28H42NO6P
